US08383619B2
A mixture of methyl 2,4-dihydroxy-5-isopropylbenzoate (1.05 g, 5.0 mmol) and anhydrous potassium carbonate (828 mg, 6.0 mmol) in acetonitrile (25 ml) was treated with chloromethyl methyl ether (0.4 ml, 5.27 mmol) and the mixture was stirred at room temperature for 3 hours. The solvent was removed in vacuo and the residue treated with water (30 ml). The solid material was collected by suction filtration, rinsed with water (2×20 ml) and sucked dry under reduced pressure to afford methyl 2-hydroxy-5-isopropyl-4-(methoxymethyloxy)benzoate (1.02 g, 80%) as a colourless solid. 1H NMR (DMSO-d6) 10.61 (1H, br s), 7.58 (1H, s), 6.62 (1H, s), 5.30 (2H, s), 3.88 (3H, s), 3.42 (3H, s), 3.17 (1H, m), 1.17 (6H, d). MS: [M+H]+ 255.

reactant | methyl 2,4-dihydroxy-5-isopropylbenzoate | 5.0 mmol, 1.05 g | OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C11H14O4
reactant | potassium carbonate | 6.0 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 5.27 mmol, 0.4 ml | COCCl | C2H5ClO
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | methyl 2-hydroxy-5-isopropyl-4-(methoxymethyloxy)benzoate | 1.02 g, 80% | OC1=C(C(=O)OC)C=C(C(=C1)OCOC)C(C)C | C13H18O5
